US09102621B2
3-Chloro-2-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
A round bottom flask was charged with 3-chloro-2-cyclopropylpyridine (Preparation 40, 0.475 g, 3.092 mmol), bis(pinacolato)diboron (0.980 g, 3.859 mmol) and 4,4-di-tert-butyl-2,2-dipyridyl (0.025 g, 0.093 mmol) in hexane (10 mL). The reaction mixture was cycled between vacuum and nitrogen 6 times over 15 minutes. Di-μ-methanolatodiiridium(Ir—Ir)-cycloocta-1,5-diene (1:2) (0.063 g, 0.093 mmol) was then added and the reaction stirred for 18 hours under nitrogen atmosphere at room temperature. The reaction mixture was evaporated to dryness to afford the title compound as a red viscous oil, which was used in the next step without further purification.

reactant | 3-chloro-2-cyclopropylpyridine | 3.092 mmol, 0.475 g | ClC=1C(=NC=CC1)C1CC1 | C8H8ClN
reactant | bis(pinacolato)diboron | 3.859 mmol, 0.980 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 3-Chloro-2-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | ClC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)C1CC1 | C14H19BClNO2
